spice
* SPICE Netlist

* Voltage Sources
VDD 2 0 DC 5V
VSS 5 0 DC 0V

* Current Source
IBIAS 2 4 DC 10uA

* NMOS Transistors (Drain Gate Source)
MB51 4 2 5 NMOS
MB52 0 2 4 NMOS
MB52P 2 2 4 NMOS
MB53 2 3 5 NMOS
MB55 3 2 5 NMOS
MD1 5 6 3 NMOS

* PMOS Transistors (Drain Gate Source)
MB54 2 2 3 PMOS
MB56 7 2 3 PMOS
MD2 5 8 7 PMOS

* Node Labels
* Node 2 = VDD and PMOS Gate
* Node 3 = Common node for MB55 and MD1 drains and MB53 gate
* Node 4 = Common node for MB51 and MB52 sources, MB52' drains
* Node 5 = Ground (VSS)
* Node 6 = VIN11
* Node 7 = VOUT12
* Node 8 = VIN12

.ends